US06998412B2
Ethyl 2-(6-iodohexyloxy)-2-methylpropionate
To 76 ml of a solution of 12.16 g of ethyl 2-(6-bromohexyloxy)-2-methylpropionate in acetone, 18.52 g of sodium iodide was added, and heated to reflux for 18 hours. The reaction solution was cooled, filtered to remove insolubles and washed with acetone. The filtrate was concentrated and, after addition of water, extracted with ethyl acetate. The organic layer was washed with water and brine sequentially, dried over anhydrous magnesium sulfate and concentrated to provide 14.46 g of the objective compound as red-yellow oil.

reactant | ethyl 2-(6-bromohexyloxy)-2-methylpropionate | 12.16 g | BrCCCCCCOC(C(=O)OCC)(C)C | C12H23BrO3
reactant | sodium iodide | 18.52 g | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | Ethyl 2-(6-iodohexyloxy)-2-methylpropionate | 14.46 g | ICCCCCCOC(C(=O)OCC)(C)C | C12H23IO3
